US05594023
5-Chloro-3-(cyclohexylmethyl)-1,3-dihydro-1-(2-methoxy-4-nitrobenzenesulfonyl)-3-(methylamino)indol-2-one
This compound is prepared according to the procedure described in EXAMPLE 16 from 1.49 g of 5-chloro-3-(cyclohexylmethyl)-1,3-dihydro-3-(methylamino)indol-2-one and 1.8 g of 2-methoxy-4-nitrobenzenesulfonyl chloride. Chromatography on silica using DCM and then a DCM/AcOEt mixture (95/5; v/v) as the eluent gives 1.5 g of the expected product after crystallization from AcOEt. M.p.=207° C.

reactant | 5-chloro-3-(cyclohexylmethyl)-1,3-dihydro-3-(methylamino)indol-2-one | 1.49 g | ClC=1C=C2C(C(NC2=CC1)=O)(NC)CC1CCCCC1 | C16H21ClN2O
reactant | 2-methoxy-4-nitrobenzenesulfonyl chloride | 1.8 g | COC1=C(C=CC(=C1)[N+](=O)[O-])S(=O)(=O)Cl | C7H6ClNO5S
reactant | DCM | C(Cl)Cl | CH2Cl2
solvent | DCM AcOEt | C(Cl)Cl.CCOC(=O)C
product | 5-Chloro-3-(cyclohexylmethyl)-1,3-dihydro-1-(2-methoxy-4-nitrobenzenesulfonyl)-3-(methylamino)indol-2-one | 1.5 g | ClC=1C=C2C(C(N(C2=CC1)S(=O)(=O)C1=C(C=C(C=C1)[N+](=O)[O-])OC)=O)(NC)CC1CCCCC1 | C23H26ClN3O6S
